US07015218B1
N-[3-Cyano-4-(4-hydroxypiperidin-1-yl)phenyl]-N-[1-(4-fluorophenyl)-5-methylpyrazol-4-ylcarbonyl]glycine ½ isopropanol
N-(3-Cyano-4-(4-tert-butyldimethylsilyloxypiperidin-1-yl) phenyl)-1-(4-fluorophenyl)-5-methylpyrazole-4-carboxamide (3.3 g) and sodium hydride (60% content, 0.3 g) were reacted in dimethylformamide (30 ml) under ice-cooling for 1 h. Dimethylformamide solution (10 ml) containing ethyl bromoacetate (1.4 g) was added and the mixture was stirred under ice-cooling for 1 h and, after allowed to warm to roan temperature, stirred for another 1 h. The reaction mixture was added into water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. Tetrabutylammonium fluoride (3.0 g), tetrahydrofuran (20 ml) and acetonitrile (20 ml) were added to the residue and the mixture was stirred at 80° C. for 1 h. The solvent was evaporated under reduced pressure. To the residue was added dilute hydrochloric acid and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. A mixed solvent of toluene-ethyl acetate was added to the residue to allow crystallization. The crystals were recrystallized from hydrous isopropanol to give the title compound (0.3 g), melting point: 155–158° C.

reactant | N-(3-Cyano-4-(4-tert-butyldimethylsilyloxypiperidin-1-yl) phenyl)-1-(4-fluorophenyl)-5-methylpyrazole-4-carboxamide | 3.3 g | C(#N)C=1C=C(C=CC1N1CCC(CC1)O[Si](C)(C)C(C)(C)C)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)F | C29H36FN5O2Si
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | ethyl bromoacetate | 1.4 g | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | Dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-[3-Cyano-4-(4-hydroxypiperidin-1-yl)phenyl]-N-[1-(4-fluorophenyl)-5-methylpyrazol-4-ylcarbonyl]glycine | 0.3 g | C(#N)C=1C=C(C=CC1N1CCC(CC1)O)N(CC(=O)O)C(=O)C=1C=NN(C1C)C1=CC=C(C=C1)F | C25H24FN5O4
